US07951794B2
A solution of 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone (200 mg, 0.869 mmol) and 3-chloro-4-hydroxy-5-methoxybenzaldehyde (194 mg, 1.04 mmol) in ethanol (2 mL) and 5 N HCl in isopropanol (1 mL) is stirred at rt for 18 h. The dark green solution is diluted with water and extracted with EA. The organic extract is evaporated, dissolved in methanol (5 mL) and THF (5 mL) and treated with Pd/C (150 mg, 10% Pd). The slurry is hydrogenated under 1.8 bar of H2 for 18 h. The mixture is filtered over celite, the solvent is removed in vacuo and the crude product is purified by CC on silica gel eluting with heptane:EA 7:3 to give 3-(3-chloro-4-hydroxy-5-methoxy-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one (208 mg) as a colourless oil; LC-MS: tR=1.10 min, [M+1]+=401.12; 1H NMR (CDCl3): δ 7.58 (s, 1H), 7.46-7.30 (m, 5H), 6.83 (d, J=1.8 Hz, 1H), 6.67 (d, J=1.8 Hz, 1H), 3.88 (s, 3H), 3.16 (t, J=7.6 Hz, 2H), 2.98 (t, J=7.6 Hz, 2H), 2.91 (q, J=7.6 Hz, 2H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone | 0.869 mmol, 200 mg | C(C)C1=C(C=C(S1)C(C)=O)C1=CC=CC=C1 | C14H14OS
reactant | 3-chloro-4-hydroxy-5-methoxybenzaldehyde | 1.04 mmol, 194 mg | ClC=1C=C(C=O)C=C(C1O)OC | C8H7ClO3
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(3-chloro-4-hydroxy-5-methoxy-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one | 208 mg | ClC=1C=C(C=C(C1O)OC)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CC | C22H21ClO3S
